US08871782B2
A mixture of 4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-ol hydrochloride (prepared using a modification on the procedure described in Parts A and B of Example 51, 2.5 g, 7.4 mmol), 1-chloro-3-iodopropane (1.7 g, 8.2 mmol), and potassium carbonate (3.1 g, 22 mmol) in DMF (25 mL) was stirred overnight, then triethylamine (2 mL) was added and the reaction mixture was heated to 70° C. for 8 hours. The mixture was allowed to cool to room temperature and was stirred overnight. The mixture was poured into water (500 mL) and solid sodium hydroxide was added to adjust the mixture to pH 14. The mixture was extracted with chloroform (300 mL followed by 3×75 mL). The organic layers were thrown away and the aqueous layer was adjusted to pH 10 with 10% aqueous hydrochloric acid. A precipitate formed and was isolated by filtration. The solid was subjected to the initial reaction conditions, and this time methanol (25 mL) was added. After 3 hours at room temperature, the reaction mixture was heated at 90° C. and potassium carbonate (1 g) and 1-chloro-3-bromopropane (1 mL) were added. After 3 hours, the reaction mixture was allowed to cool to room temperature, was filtered, and the methanol was removed under reduced pressure. The solution was poured into water (300 mL) and sodium chloride (200 g) was added, causing a precipitate to form within 30 minutes. After 1 hour, the precipitate was filtered, dissolved in a minimal amount of chloroform, and purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 0-15% CMA in chloroform) to yield 900 mg of 7-(3-chloropropoxy)-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | 4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-ol hydrochloride | Cl.NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCC)COCC)O
reactant | 1-chloro-3-iodopropane | 8.2 mmol, 1.7 g | ClCCCI | C3H6ClI
reactant | potassium carbonate | 22 mmol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3-bromopropane | 1 mL | ClCCCBr | C3H6BrCl
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 500 mL | O | H2O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 7-(3-chloropropoxy)-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 900 mg | ClCCCOC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCC)COCC | C19H25ClN4O2
